US09145380B2
2-(2-(6-(cyclohexylethynyl)pyridin-3-yl)ethylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 179 a) in 25% yield, starting from 2-(2-(6-bromopyridin-3-yl)ethylsulfonamido)benzenesulfonamide and cyclohexylacetylene. Purification by column chromatography using a gradient of 10-60% ethyl acetate in heptane as the eluent.

reactant | 2-(2-(6-bromopyridin-3-yl)ethylsulfonamido)benzenesulfonamide | BrC1=CC=C(C=N1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C13H14BrN3O4S2
reactant | cyclohexylacetylene | C1(CCCCC1)C#C | C8H12
product | 2-(2-(6-(cyclohexylethynyl)pyridin-3-yl)ethylsulfonamido)benzenesulfonamide | 25% yield | C1(CCCCC1)C#CC1=CC=C(C=N1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C21H25N3O4S2
